US04261995
PREPARATION C: 2-Phenyl-1,3-propanediamine (Reaction Sequence 1)
2-(2-chlorophenyl)1,3-propanediamine, bp 87°-92° C./0.05 mm (di HCl salt, mp 253°-257° C.);

reactant | 2-(2-chlorophenyl)1,3-propanediamine | ClC1=C(C=CC=C1)C(CN)CN | C9H13ClN2
reactant | HCl | Cl | ClH
product | 2-Phenyl-1,3-propanediamine | C1(=CC=CC=C1)C(CN)CN | C9H14N2
